US06040309
6-(1H-Imidazo[4,5-c]pyridin-1-ylmethyl)-3-[(3-methoxyphenyl)sulfinyl]benzo[b]thiophene-2-carboxylic Acid
Hydrogen peroxide in water (0.07 ml of 30% w/v, 0.58 mmol) was added to a mixture of 6-(1H-Imidazo[4,5-c]pyridin-1-ylmethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylic acid (Example 23--218 mg, 0.49 mmol) in acetic acid (2 ml), and 2M hydrochloric acid (2 ml). The solution was heated to 100° C. for 1 hour. The solution was cooled and the solvents were evaporated under reduced pressure. The residue was dissolved in a hot mixture of aqueous sodium hydroxide (5 ml of 1M) and methanol (5 ml). After acidifying the solution with acetic acid, and cooling, the precipitate was collected by filtration to give the title compound as a colourless solid (95 mg).

reactant | Hydrogen peroxide | OO | H2O2
reactant | water | 0.58 mmol, 0.07 ml | O | H2O
reactant | 6-(1H-Imidazo[4,5-c]pyridin-1-ylmethyl)-3-[(3-methoxyphenyl)sulfanyl]benzo[b]thiophene-2-carboxylic acid | 0.49 mmol, 23--218 mg | N1(C=NC=2C=NC=CC21)CC=2C=CC1=C(SC(=C1SC1=CC(=CC=C1)OC)C(=O)O)C2 | C23H17N3O3S2
reactant | hydrochloric acid | 2M, 2 ml | Cl | ClH
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
product | 6-(1H-Imidazo[4,5-c]pyridin-1-ylmethyl)-3-[(3-methoxyphenyl)sulfinyl]benzo[b]thiophene-2-carboxylic Acid | 95 mg | N1(C=NC=2C=NC=CC21)CC=2C=CC1=C(SC(=C1S(=O)C1=CC(=CC=C1)OC)C(=O)O)C2 | C23H17N3O4S2
